US07259266B2
Preparation of Ethyl 6-chloro-7-(2-chloro-4-bromophenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To the mixture of 1.5 g (4.61 mmol) of ethyl 6-chloro-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate, 1.04 g (6.44mmol) of 2-chloro-4-bromophenol, and 0.89 g (8.76 mmol) potassium carbonate was added 10 mL of anhydrous DMF. The resulting mixture was heated to 110° C. for five hrs. After cooling to room temperature the reaction was treated with 150 mL of ethyl acetate. The organic phase was washed with saturated sodium bicarbonate three times and brine three times and dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified on a silica gel column with EtOAc/hexane (1:9) to afford 1.8 g (76.3%) of a light yellow solid: 1H NMR (CDCl3/400MHz) 7.69(s, 1H), 7.68(s, 1H), 7.47 (dd,1H, J=2.4 Hz, 8.7 Hz), 7.37 (s, 1H), 7.00 (d, J=8.7 Hz, 1H), 6.38(s, 1H), 5.70(q, 1H, J=6.6 Hz), 4.35 (m, 2H), 1.38(t, 3H, J=7.2 Hz). MS (ESI+) 511 (M+1, 60), 513 (M+3, 100); HRMS (El) m/z calcd for (C19H12BrCl2F3O4) 509.9248, found 509.9274.

reactant | ethyl 6-chloro-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 4.61 mmol, 1.5 g | ClC=1C=C2C=C(C(OC2=CC1F)C(F)(F)F)C(=O)OCC | C13H9ClF4O3
reactant | 2-chloro-4-bromophenol | 6.44mmol, 1.04 g | ClC1=C(C=CC(=C1)Br)O | C6H4BrClO
reactant | potassium carbonate | 8.76 mmol, 0.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 6-chloro-7-(2-chloro-4-bromophenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.8 g, 76.3% | ClC=1C=C2C=C(C(OC2=CC1OC1=C(C=C(C=C1)Br)Cl)C(F)(F)F)C(=O)OCC | C19H12BrCl2F3O4
